US08008483B2
a) Preparation of 1,1-dimethylethyl 4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]-1-piperidinecarboxylate
To a suspension of 1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinecarboxylic acid (8.00 g, 34.9 mmol, 1.00 equiv) in CH2Cl2/DMF (7/1, 350 ml) at room temperature, 1-[2-(trifluoromethyl)phenyl]methanamine (4.90 mL, 34.9 mmol, 1.00 equiv), EDCI (8.03 g, 41.9 mmol, 1.20 equiv), HOBT (5.66 g, 41.9 mmol, 1.20 equiv), and diisopropylethylamine (DIEA, 18.3 ml, 105 mmol, 3.00 equiv) were added. Stirring was continued overnight at room temperature. The reaction mixture was partitioned between water and ethyl acetate (1:1, 600 ml). The product was extracted three times with ethyl acetate (100 ml). The organic extracts were combined and washed successively with saturated ammonium chloride (200 ml), water (200 ml), and saturated sodium chloride (200 ml). The ethyl acetate solution was dried with Na2SO4, filtered, and concentrated under reduced pressure to afford 11.67 g (87%) of the title compound. MS (ES+): m/e 408.9 [M+Na]+.

reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinecarboxylic acid | 34.9 mmol, 8.00 g, 1.00 equiv | CC(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1-[2-(trifluoromethyl)phenyl]methanamine | 34.9 mmol, 4.90 mL, 1.00 equiv | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | EDCI | 41.9 mmol, 8.03 g, 1.20 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 41.9 mmol, 5.66 g, 1.20 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 105 mmol, 18.3 ml, 3.00 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 DMF | 350 ml | C(Cl)Cl.CN(C)C=O
product | 1,1-dimethylethyl 4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]-1-piperidinecarboxylate | 11.67 g, 87% | FC(C1=C(C=CC=C1)CNC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C19H25F3N2O3
